US03987052
In the manner given in Example 2, 6,8-diethyl-1,3-dihydro-5-(m-ethylphenyl)-2H-1,4-benzodiazepine-2-thione is heated in ethanol with phenylacetic acid hydrazide and the resulting product heated to 250° C. to give 7,9-diethyl-1-benzyl-6-(m-ethylphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 6,8-diethyl-1,3-dihydro-5-(m-ethylphenyl)-2H-1,4-benzodiazepine-2-thione | C(C)C1=CC(=CC2=C1C(=NCC(N2)=S)C2=CC(=CC=C2)CC)CC | C21H24N2S
reactant | phenylacetic acid hydrazide | C1(=CC=CC=C1)CC(=O)NN | C8H10N2O
solvent | ethanol | C(C)O | C2H6O
product | 7,9-diethyl-1-benzyl-6-(m-ethylphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C)C1=CC(=CC2=C1C(=NCC=1N2C(=NN1)CC1=CC=CC=C1)C1=CC(=CC=C1)CC)CC | C29H30N4
